US09056859B2
2-(3-bromo-2-methoxyphenypethanol To a solution of methyl (3-bromo-2-methoxyphenyl)acetate (8.2 g, 31.66 mmol) in 200 mL of dry THF under N2 at room temperature was added LiBH4 (32 mL, 63.32 mmol, 2M THF). After 1.5 hours, the reaction was warmed to reflux for 3 hours, and then cooled to room temperature. The solution was poured into EtOAc/1N HCl solution, and the layers were separated. The organic layer was washed with water, saturated Na2CO3 and brine, dried over anhydrous Na2SO4 and concentrated to give 2-(3-bromo-2-methoxyphenyl)ethanol. Step E: methyl 6-bromo-5-methoxy-3,4-dihydro-1H-isochromene-1-carboxylate TiCl4 (9.84 g, 104 mmol) was added over a period of 20 min to an ice-cooled mixture of 2-(3-bromo-2-methoxyphenyl)ethanol (6 g, 26.0 mmol) and ethyl diethoxyacetate (5.5 g, 31.1 mmol) in 60 mL of CH3NO2. After stirred for 10 min, the ice bath was removed and the mixture was allowed to stir at room temperature over night. The mixture was poured onto ice/aqueous 1N HCl. Extracted by DCM and backwashed with 1N HCl and brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified via column chromatograph to give methyl 6-bromo-5-methoxy-3,4-dihydro-1H-isochromene-1-carboxylate.

reactant | methyl (3-bromo-2-methoxyphenyl)acetate | 31.66 mmol, 8.2 g | BrC=1C(=C(C=CC1)CC(=O)OC)OC | C10H11BrO3
reactant | LiBH4 | 63.32 mmol, 2M, 32 mL | [Li+].[BH4-]
reactant | EtOAc | 1N | CCOC(=O)C | C4H8O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-(3-bromo-2-methoxyphenyl)ethanol | BrC=1C(=C(C=CC1)CCO)OC | C9H11BrO2
